US04546098
3-Methylene-10β-Ethyl-estra-4,6-diene-17-one--Compound 18
290 mg of 10β-ethyl-estra-4-ene-3,17-dione and 594 mg of chloranil are taken up in 15 ml of toluene. The mixture is refluxed for 20 hours in an atmosphere of nitrogen. The solvent is washed with several small portions of 5% sodium hydroxide and then with water. It is dried over anhydrous sodium sulfate for several hours. The solution is filtered and the solvent removed under vacuum. The amorphous solid obtained is triturated with ether, filtered and purified by chromatography over silica gel using a n-hexane-ethyl acetate solvent.

reactant | 10β-ethyl-estra-4-ene-3,17-dione | 290 mg | C(C)[C@]12CCC(C=C1CC[C@H]1[C@@H]3CCC([C@@]3(C)CC[C@H]21)=O)=O | C20H28O2
reactant | chloranil | 594 mg | C1(=C(C(=O)C(=C(C1=O)Cl)Cl)Cl)Cl | C6Cl4O2
reactant | toluene | 15 ml | C1(=CC=CC=C1)C | C7H8
product | 3-Methylene-10β-Ethyl-estra-4,6-diene-17-one | C=C1C=C2C=C[C@H]3[C@@H]4CCC([C@@]4(C)CC[C@@H]3[C@]2(CC1)CC)=O | C21H28O
